datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:8](=[C:9]([H:11])[H:12])[H:10])[H:4],20.125
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18])[H:5])[H:4],-16.1084
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:25])[H:26])[H:24])=[C:14]([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:27])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:14]([C:11]([C:10](=[C:9]([H:21])[H:22])[H:23])[C:12](=[C:13]([H:25])[H:26])[H:24])([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:27])[H:4],30.8361
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16],109.621
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25][H:26]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][O:24][O:25][H:26],62.751632
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],26.7776
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[O:10][H:11]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])[H:4].[H:5][O:10][H:11],0.0
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[S:7]([c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19])[H:14]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:14])[H:4].[S:7][c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19],-4.6024
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4][c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:12][H:15],39.49913568
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([H:16])([H:17])[H:18])([C:9]([O:10][O:11])([H:19])[H:20])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:11][O:10][C:9]([C:7]([C:6]([H:12])([H:13])[H:14])([C:8]([H:16])([H:17])[H:18])[H:15])([H:19])[H:20],113.520288
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])[H:10].[H:11],154.506752
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[S:11])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:12])[H:4].[C:9]([C:10](=[S:11])[H:15])([H:13])[H:14],56.9024
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:17]([H:18])([H:19])[H:20])[H:9])([H:7])[H:8],14.8114
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:16])[H:17])[H:18])([C:9]([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:20])[H:19])[H:3],39.4551
[C:0]([C:1]([O:2][Si:3]([O:4][H:12])([O:5][H:13])[O:6][H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0](=[C:1]([H:10])[H:11])([H:7])[H:8].[O:2]([Si:3]([O:4][H:12])([O:5][H:13])[O:6][H:14])[H:9],286.821568
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32],84.0984
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20][O:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][O:20][O:21],199.11656
[N:0]=[C:1]=[N:2][H:3].[O:4][O:5]>>[H:3][O:4][O:5].[N:0]=[C:1]=[N:2],102.269512
